US07423037B2
5-fluoro-2-methoxybenzyl chloride
Neat (5-Fluoro-2-methoxy-phenyl)-methanol (19.587 g, 1 equiv.) is added to neat SOCl2 (42.2 mL, 4.6 equiv.) at −78° C. under a nitrogen atmosphere and the solution is then allowed to warm to room temperature and stirred until evolution of gas ceases. An equivalent volume of anhydrous toluene is added to the flask and the solution heated to 60° C. On cooling, the reaction solution is poured onto ice water. The toluene layer is separated and dried (MgSO4) and the solvent removed under reduced pressure. The crude material is sublimed (60-80° C./0.05 mBarr) to give the title compound as a white solid (13.40 g, 61%). MW 174.60; C8H8ClFO; 1H NMR (CDCl3): 3.87 (s, 3H), 4.60 (s, 2H), 6.79-7.20 (m, 3H).

reactant | (5-Fluoro-2-methoxy-phenyl)-methanol | 19.587 g, 1 equiv. | FC=1C=CC(=C(C1)CO)OC | C8H9FO2
reactant | SOCl2 | 42.2 mL, 4.6 equiv. | O=S(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-2-methoxybenzyl chloride | 13.40 g, 61% | FC=1C=CC(=C(CCl)C1)OC | C8H8ClFO
